US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1. Yield: 60% of theory; LC (method 1): tR=2.44 min; Mass spectrum (ESI+): m/z=318 [M+H]+; 1H NMR (400 MHz, DMSO-d6, mixture of rotamers) δ 1.20-1.34 (m, 1H), 1.41-1.56 (m, 1H), 1.56-1.71 (m, 1H), 1.92-2.02 (m, 1H), 2.68-3.11 (m, 3H), 3.11-3.27 (m, 1H), 3.47-5.43 (very broad signals, 2H), 7.07-7.30 (m, 5H), 7.54-7.62 (m, 1H), 7.64-7.72 (m, 1H), 8.29 (s, 1H), 12.51-12.65 (m, 1H).

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
product | (1H-Benzoimidazol-5-yl)-(cis-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | Yield: 60% | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=CC=CC2C1 | C20H19N3O
